US07888352B2
2-Chloro-6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine, prepared via General Procedure B-3, was reacted with 5-formyl-2-furanboronic acid in General Procedure A. Purification on silica yielded 5-[6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-furan-2-carbaldehyde.

reactant | 2-Chloro-6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)S(=O)(=O)C)N2CCOCC2 | C16H22ClN5O3S2
reactant | 5-formyl-2-furanboronic acid | C(=O)C1=CC=C(O1)B(O)O | C5H5BO4
product | 5-[6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-2-yl]-furan-2-carbaldehyde | CS(=O)(=O)N1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=CC=C(O1)C=O | C21H25N5O5S2
